* som_decoupling.cir — SPICE subckt for the carrier som_decoupling subsystem.
*
* CARRIER-LOCAL: the subckt pins are the subsystem's real carrier nets — the
* three SoM-delivered rails (+5V_SOM, +3V3, +3V3_SC) and GND. This captures the
* FULL passive network: bulk + HF bypass on each rail at the DF40 power entry,
* placed bottom-side under the SoM shadow (LAW 6). There is no active part on
* this sheet — the decoupling network IS the subsystem.
*
* Values mirror devkit_mini/subsystems/som_decoupling/som_decoupling.py one-for-one:
*   per rail: 2x 22u (C45783) bulk + 4x 100n (C14663) HF, rail -> GND
*   three rails -> 18 caps total (6x 22u + 12x 100n).
*
* Port order: V5 (=+5V_SOM), V3 (=+3V3), VSC (=+3V3_SC), GND.

.subckt som_decoupling V5 V3 VSC GND

* +5V_SOM entry decoupling
C1  V5  GND 22u
C2  V5  GND 22u
C3  V5  GND 100n
C4  V5  GND 100n
C5  V5  GND 100n
C6  V5  GND 100n

* +3V3 entry decoupling
C7  V3  GND 22u
C8  V3  GND 22u
C9  V3  GND 100n
C10 V3  GND 100n
C11 V3  GND 100n
C12 V3  GND 100n

* +3V3_SC entry decoupling
C13 VSC GND 22u
C14 VSC GND 22u
C15 VSC GND 100n
C16 VSC GND 100n
C17 VSC GND 100n
C18 VSC GND 100n

.ends som_decoupling
.end
